US06660744B1
To a solution of 1-benzoylacetone (3.63 g, 0.0224 mol) and N,N-diisopropylethylamine (2.88 g, 0.0224 mol) in anhydrous methanol (160 mL), 4-bromophenylhydrazine hydrochloride was added and the resulting mixture was stirred at ambient temperature for 20 hours. The solvent was removed under reduced pressure and the resulting mixture was partitioned between a 5% solution of citric acid solution in water (200 mL) and ethyl acetate (150 mL). The organic phase was successively washed with water (2×200 mL) and brine (150 mL), dried with magnesium sulfate and concentrated. The resulting residue was purified by flash chromatography on silica using ethyl acetate/n-heptane (5:95) as mobile phase to yield 1-(4-bromophenyl)-3-methyl-5-phenyl-4,5-dihydro-1H-pyrazole (4.05 g, 0.0129 mol) as an off-white solid.

reactant | 1-benzoylacetone | 0.0224 mol, 3.63 g | C(C1=CC=CC=C1)(=O)CC(=O)C | C10H10O2
reactant | N,N-diisopropylethylamine | 0.0224 mol, 2.88 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-bromophenylhydrazine hydrochloride | Cl.BrC1=CC=C(C=C1)NN
solvent | methanol | 160 mL | CO | CH4O
product | 1-(4-bromophenyl)-3-methyl-5-phenyl-4,5-dihydro-1H-pyrazole | 0.0129 mol, 4.05 g | BrC1=CC=C(C=C1)N1N=C(CC1C1=CC=CC=C1)C | C16H15BrN2
